US09108957B2
To a solution of 3-bromophenylacetic acid (25.0 g, 116 mmol) in carbon tetrachloride (200 ml) was added N-bromosuccinimide (22.8 g, 128 mmol) at room temperature. The mixture was refluxed for 3 hours and cooled to room temperature. The resulting precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=4/1) to afford bromo-(3-bromo-phenyl)-acetic acid as yellow liquid (27.8 g, 81%).

reactant | 3-bromophenylacetic acid | 116 mmol, 25.0 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | N-bromosuccinimide | 128 mmol, 22.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bromo-(3-bromo-phenyl)-acetic acid | 27.8 g, 81% | BrC(C(=O)O)C1=CC(=CC=C1)Br | C8H6Br2O2
